US06498165B1
2-[3-Methoxybenzylamino]-4-[benzimidazol-1-yl]pyrimidine
2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine was reacted with 3-methoxybenzylamine according to the procedure described in EXAMPLE 1, Step C to afford the title compound. 1H NMR (500 MHz, CDCl3): δ 0.60 (br s, 1H); 8.44 (br s, 1H); 8.08 (br s, 1H); 7.86 (d, J=8.5 Hz, 1H); 7.3-7.5 (m, 3H); 7.02 (d, J=7.6 Hz; 1H); 6.98 (s, 1H); 6.85 (m, 2H); 5.86 (br s, 1H); 4.73 (d, J=5.7 Hz, 2H); 3.82 (s, 3H).

reactant | 2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4O2S
reactant | 3-methoxybenzylamine | COC=1C=C(CN)C=CC1 | C8H11NO
product | 2-[3-Methoxybenzylamino]-4-[benzimidazol-1-yl]pyrimidine | COC=1C=C(CNC2=NC=CC(=N2)N2C=NC3=C2C=CC=C3)C=CC1 | C19H17N5O
